US06002008
4-(3-Hydroxy-4-methyl-phenylamino)-8-methoxy-quinoline-3-carbonitrile
Using an analogous procedure to that described in Example 274. A reaction mixture of 328.0 mg (1.5 mmol) of 4-chloro-8-methoxy -3-quinolinecarbonitrile, 173.3 mg (1.5 mmol) of pyridine hydrochloride and 203.2 mg (1.7 mmol) of 3-hydroxy-4-methylaniline in 15 mL of 2-ethoxyethanol was heated at 100° C. for 1.5 hr. After the work up, 407.7 mg (89.4%) of the product was obtained as a yellow solid, m.p. 148-150° C., mass spectrum (electrospray, m/e): M+H 306.9.

reactant | 4-chloro-8-methoxy -3-quinolinecarbonitrile | 1.5 mmol, 328.0 mg | ClC1=C(C=NC2=C(C=CC=C12)OC)C#N | C11H7ClN2O
reactant | pyridine hydrochloride | 1.5 mmol, 173.3 mg | Cl.N1=CC=CC=C1
reactant | 3-hydroxy-4-methylaniline | 1.7 mmol, 203.2 mg | OC=1C=C(N)C=CC1C | C7H9NO
solvent | 2-ethoxyethanol | 15 mL | C(C)OCCO | C4H10O2
product | 4-(3-Hydroxy-4-methyl-phenylamino)-8-methoxy-quinoline-3-carbonitrile | 407.7 mg, 89.4% | OC=1C=C(C=CC1C)NC1=C(C=NC2=C(C=CC=C12)OC)C#N | C18H15N3O2
